US07919504B2
2-Oxo-2,3-dihydrobenzo[d]oxazole-6-carboxylic acid.
To ethyl 2-oxo-2,3-dihydrobenzo[d]oxazole-6-carboxylate in THF (20 mL) was added LiOH (2 g in 10 mL water). The mixture was stirred at room temperature for 20 hours. The solvent was evaporated. The residue was taken up in water and acidified with 5 N HCl to pH=5. The solid was recovered by filtration, washing with water, to provide the pure product as a tan solid (1.44 g, 80%). LCMS (API-ES) m/z: 180 (M+H+).

reactant | ethyl 2-oxo-2,3-dihydrobenzo[d]oxazole-6-carboxylate | O=C1OC2=C(N1)C=CC(=C2)C(=O)OCC | C10H9NO4
reactant | LiOH | 10 mL, 2 g | [Li+].[OH-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Oxo-2,3-dihydrobenzo[d]oxazole-6-carboxylic acid | 1.44 g, 80% | O=C1OC2=C(N1)C=CC(=C2)C(=O)O | C8H5NO4
